US07550489B2
N-[2,3-Bis(4-chlorophenyl)-1-methylpropyl]-3-hydroxy-2,2-dimethylpropanamide
To a mixture of 2-amino-3,4-bis(4-chlorophenyl)butane hydrochloride salt (Reference Example 1, Diastereomer a) (3.7 g, 11 mmol), 3-hydroxy-2,2-dimethylpropionic acid (2.0 g, 17 mmol) in CH2Cl2 (100 mL) was added 1-hydroxybenzotriazole (2.3 g, 17 mmol), diisopropylethylamine (7.7 mL, 44 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (3.2 g, 17 mmol). After stirring at room temperature overnight. The reaction mixture was diluted with EtOAc (200 mL), washed with water and saturated aqueous sodium bicarbonate, and concentrated to dryness, and the residue was purified by flash column chromatography on silica gel eluted with 50% EtOAc in hexane to give the title compound. 1H NMR (500 MHz, CD3OD): δ7.24 (d, 2H), 7.12 (d, 2H), 7.10 (d, 2H), 6.92 (d, 2H), 4.25 (m, 1H), 3.68 (ABq, 2H), 3.18 (dd, 1H), 2.93 (ddd, 1H), 2.76 (dd, 1H), 1.20 (s, 3H), 1.19 (s, 3H), 0.96 (d, 3H). LC-MS: m/e 394 (M+H)+ (3.5 min).

reactant | 2-amino-3,4-bis(4-chlorophenyl)butane hydrochloride salt | Cl.NC(C)C(CC1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl
reactant | 3-hydroxy-2,2-dimethylpropionic acid | 17 mmol, 2.0 g | OCC(C(=O)O)(C)C | C5H10O3
reactant | 1-hydroxybenzotriazole | 17 mmol, 2.3 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 44 mmol, 7.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 17 mmol, 3.2 g | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | N-[2,3-Bis(4-chlorophenyl)-1-methylpropyl]-3-hydroxy-2,2-dimethylpropanamide | ClC1=CC=C(C=C1)C(C(C)NC(C(CO)(C)C)=O)CC1=CC=C(C=C1)Cl | C21H25Cl2NO2
